US07846964B2
A solution of 1-allyl-4-bromo-benzene (2.0 g, 10.2 mmol) in acetone (60 mL) is treated with OsO4 (52 mg, 0.20 mmol), NMO (1.44 g, 12.2 mmol) and water (approx. 0.3 mL). The clear solution is stirred at rt for 2 h, diluted with DCM (150 mL) and washed twice with 10% aq. citric acid (2×75 mL). The aqueous phase is extracted twice with DCM. The organic extracts are combined, dried over MgSO4 and evaporated. The crude product is purified by CC on silica gel eluting with EA to give 3-(4-bromo-phenyl)-propane-1,2-diol (1.41 g) as an almost colourless oil; LC-MS: tR=0.72 min; 1H NMR (CDCl3): δ 7.46-7.40 (m, 2H), 7.14-7.08 (m, 2H), 3.96-3.87 (m, 1H), 3.73-3.67 (m, 1H), 3.55-3.47 (m, 1H), 2.81-2.67 (m, 2H), 1.90 (s br, 2H).

reactant | 1-allyl-4-bromo-benzene | 10.2 mmol, 2.0 g | C(C=C)C1=CC=C(C=C1)Br | C9H9Br
reactant | NMO | 12.2 mmol, 1.44 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | approx. 0.3 mL | O | H2O
solvent | acetone | 60 mL | CC(=O)C | C3H6O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | OsO4 | 0.20 mmol, 52 mg | O=[Os](=O)(=O)=O
product | 3-(4-bromo-phenyl)-propane-1,2-diol | 1.41 g | BrC1=CC=C(C=C1)CC(CO)O | C9H11BrO2
